US06147031
Preparation of 4-[3-(4,5-dihydroisoxazol-3-yl)-4-methylsulfonyl-2-methylbenzoyl]-1-ethyl-5-phenacyloxypyrazole (Compound No. 1-11)
0.20 g of 4-[3-(4,5-dihydroisoxazol-3-yl)-4-methylsulfonyl-2-methylbenzoyl]-1-ethyl-5-hydroxypyrazole was dissolved in 10 ml of DMF, and 0.11 g of potassium carbonate, then 0.13 g of phenacyl bromide were added. The resulting solution was stirred at room temperature overnight. The reaction solution was poured into ice water, and extracted with ethyl acetate. The organic layer was washed with water, then with a saturated sodium chloride solution, and dried over anhydrous magnesium sulfate. The solvent was distilled out under reduced pressure. Methanol was added to the residue. The obtained crystals were separated by filtration to give 0.17 g of the title compound as white crystals. m.p. 177~179° C.

reactant | 4-[3-(4,5-dihydroisoxazol-3-yl)-4-methylsulfonyl-2-methylbenzoyl]-1-ethyl-5-hydroxypyrazole | 0.20 g | O1N=C(CC1)C=1C(=C(C(=O)C=2C=NN(C2O)CC)C=CC1S(=O)(=O)C)C | C17H19N3O5S
reactant | potassium carbonate | 0.11 g | C([O-])([O-])=O.[K+].[K+]
reactant | phenacyl bromide | 0.13 g | C(C(=O)C1=CC=CC=C1)Br | C8H7BrO
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 4-[3-(4,5-dihydroisoxazol-3-yl)-4-methylsulfonyl-2-methylbenzoyl]-1-ethyl-5-phenacyloxypyrazole | 0.17 g | O1N=C(CC1)C=1C(=C(C(=O)C=2C=NN(C2OCC(=O)C2=CC=CC=C2)CC)C=CC1S(=O)(=O)C)C | C25H25N3O6S
